US04766131
N-(4-Nitrophenylacetyl)-1,2,3,4-tetrahydro-6,7- dimethoxy-1-methylisoquinoline (62.9 g, 0.17 m) was added portionwise to 500 ml of 1 M borane in THF which was diluted with 500 ml THF and maintained under nitrogen. The mixture was stirred at ambient temperature for 1 hr, then heated to reflux for 4 hr. The mixture was then cooled in an ice bath and treated carefully with 20% HCl (250 ml). The mixture was refluxed for 1 hr, cooled and then the solvents evaporated on an aspirator. Water (1 liter) was added and the solution basified to pH 11 with 50% NaOH, then extracted with CHCl3 (3×300 ml). The extracts were dried over MgSO4 and evaporated to an oily residue. The residue was dissolved in 300 ml of 1:1 methanol:isopropanol and treated with HCl gas until acidic. Upon cooling, a yellow solid was obtained which was collected by filtration and air dried to give 66.4 g (100+%) N-(4-nitrophenethyl)-1,2,3,4-tetrahydro-1-methylisoquinoline hydrochloride. The product was slightly wet with isopropanol.

reactant | N-(4-Nitrophenylacetyl)-1,2,3,4-tetrahydro-6,7- dimethoxy-1-methylisoquinoline | 62.9 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)N1C(C2=CC(=C(C=C2CC1)OC)OC)C | C20H22N2O5
reactant | borane | 1 M, 500 ml | B | BH3
reactant | HCl | 250 ml | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | N-(4-nitrophenethyl)-1,2,3,4-tetrahydro-1-methylisoquinoline hydrochloride | 66.4 g | Cl.[N+](=O)([O-])C1=CC=C(CCN2C(C3=CC=CC=C3CC2)C)C=C1 | InChI=1S/C18H20N2O2.ClH/c1-14-18-5-3-2-4-16(18)11-13-19(14)12-10-15-6-8-17(9-7-15)20(21)22;/h2-9,14H,10-13H2,1H3;1H
